US06207853B1
2-(2,2,2-Trimethylethylidene)succinic acid mono-methyl ester
To a solution of 11.2 g (0.1 mol) potassium tert-butoxide in 100 ml tert-butanol was added a mixture of 14.6 g (0.1 mol) dimethyl succinate and 8.6 g (0.1 mol) trirnethylacetaldehyde over a period of 30 min. The mixture was allowed to stir at room temperature for one hour and heated to 50° C. for an additional hour. The solvent was removed under reduced pressure, the residue was dissolved in 100 ml water and transferred into a separation funnel. The solution was extracted twice with 50 ml ethyl acetate to remove neutral impurities, acidified with 6M HCl and extracted again twice with 20 ml of ethyl acetate. The combined organic phases were dried over magnesium sulfate, filtered and concentrated under reduced pressure, to give 14.9 g (75%) of a light yellow creamy solid. 1H-NMR:>95% E-isomer.

reactant | potassium tert-butoxide | 0.1 mol, 11.2 g | CC(C)([O-])C.[K+]
reactant | dimethyl succinate | 0.1 mol, 14.6 g | C(CCC(=O)OC)(=O)OC | C6H10O4
reactant | trirnethylacetaldehyde | 0.1 mol, 8.6 g | CC(C=O)(C)C | C5H10O
solvent | tert-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | 2-(2,2,2-Trimethylethylidene)succinic acid mono-methyl ester | 14.9 g, 75% | COC(C(CC(=O)O)=CC(C)(C)C)=O | C10H16O4
